US04282246
5-(2-Isopropylphenylthio)furan-3-carboxylic Acid
Following the procedure of Example 9, o-isopropylthiophenol [4.77 g., 31.4 mmoles; Hansch and Blondon, J. Am. Chem. Soc. 70, 1561 (1948)] was reacted with 5-bromofuran-3-carboxylic acid. Rather than recover the initial crude product by filtration, the mixture was reextracted with ethyl acetate, the ethyl acetate back-washed with water and saturated brine, dried over anhydrous sodium sulfate and evaporated to yield crude product. Recrystallization from hexane produced purified 5-(2-isopropylphenylthio)furan (785 mg., m.p. 117°-120° C., m/e 262).

reactant | o-isopropylthiophenol | 31.4 mmoles, 4.77 g | C(C)(C)C1=C(C=CC=C1)S | C9H12S
reactant | 5-bromofuran-3-carboxylic acid | BrC1=CC(=CO1)C(=O)O | C5H3BrO3
product | 5-(2-Isopropylphenylthio)furan-3-carboxylic Acid | C(C)(C)C1=C(C=CC=C1)SC1=CC(=CO1)C(=O)O | C14H14O3S
